US08664220B2
Step 5: 1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-methanesulfonylamino-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using N-{(1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methyl}-methanesulfonamide and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | N-{(1-benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methyl}-methanesulfonamide | C(C1=CC=CC=C1)N1N=NC(=C1)C(NS(=O)(=O)C)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C21H20BrN5O3S
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-(4′-{4-[(1-Benzyl-1H-[1,2,3]triazol-4-yl)-methanesulfonylamino-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(NS(=O)(=O)C)C=1N=NN(C1)CC1=CC=CC=C1 | C33H33N5O5S
